US04433149
Ethyl P-methyl-2-nitro-5-chlorophenylphosphinate (1.7 g, 7.5 mmol) dissolved in methanol (25 ml) is added to 200 mg of 5% palladium on carbon. The mixture is hydrogenated at 32 psi for 1 hour. The catalyst is then filtered off and the filtrate is evaporated to dryness to give ethyl P-methyl-2-amino-5-chlorophenylphosphinate.

reactant | Ethyl P-methyl-2-nitro-5-chlorophenylphosphinate | 7.5 mmol, 1.7 g | CP(OCC)(=O)C1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C9H11ClNO4P
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | ethyl P-methyl-2-amino-5-chlorophenylphosphinate | CP(OCC)(=O)C1=C(C=CC(=C1)Cl)N | C9H13ClNO2P
